US06124323
4-Benzyl-1-(2-(2-iminobenzimidazol-5-oxy)ethyl)piperidine
To a solution of 4-benzyl-1-[(3,4-diaminophenoxy)ethyl]piperidine (202 mg, 0.62 mmol) in MeOH (1.5 mL) was added 130 μL of 5.0 M solution of cyanogen bromide in acetonitrile. The resulting mixture was stirred at r.t. under N2 for 24 h, then evaporated, and the residue was purified by chromatography over silica gel (CHCl3 --MeOH, 4:1) to give 174 mg (80%) of the title compound as a viscous oil. 1H NMR (CDCl3): 1.35-1.46 (m, 2H), 1.50-1.67 (m, 3H), 2.04-2.12 (m, 2H), 2.539 (d, 2H, J=7), 2.773 (t, 2H, J=6), 3.00-3.03 (m, 2H), 3.50 (bs, 1H), 4.035 (t, 2H, J=6), 6.243 (dd, 1H, J=8; 3), 6.317 (d, 1H, J=3), 6.614 (d, 1H, J=8), 7.12-7.30 (m, 5H).

reactant | 4-benzyl-1-[(3,4-diaminophenoxy)ethyl]piperidine | 0.62 mmol, 202 mg | C(C1=CC=CC=C1)C1CCN(CC1)CCOC1=CC(=C(C=C1)N)N | C20H27N3O
reactant | cyanogen bromide | N#CBr | CBrN
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-Benzyl-1-(2-(2-iminobenzimidazol-5-oxy)ethyl)piperidine | 174 mg, 80% | C(C1=CC=CC=C1)C1CCN(CC1)CCOC1=CC=2C(=NC(N2)=N)C=C1 | C21H24N4O
